US09062032B2
To a mixture of 11.9 g of ethyl 4-[(2-hydroxyethyl)(methyl)amino]-4-oxobutanoate and 120 mL of methylene chloride was added slowly 26.0 g of Dess-Martin Periodinane under ice cooling, and the mixture was allowed to warm to room temperature over 3 hours. An aqueous sodium hydrogen carbonate solution and an aqueous sodium thiosulfate solution were added to the reaction mixture, followed by stirring for 30 minutes at room temperature. An aqueous layer was extracted with methylene chloride, the organic layers were combined and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:4), thereby obtaining 4.48 g of ethyl 4-[methyl(2-oxoethyl)amino]-4-oxobutanoate.

reactant | ethyl 4-[(2-hydroxyethyl)(methyl)amino]-4-oxobutanoate | 11.9 g | OCCN(C(CCC(=O)OCC)=O)C | C9H17NO4
reactant | Dess-Martin Periodinane | 26.0 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 120 mL | C(Cl)Cl | CH2Cl2
product | ethyl 4-[methyl(2-oxoethyl)amino]-4-oxobutanoate | 4.48 g | CN(C(CCC(=O)OCC)=O)CC=O | C9H15NO4
